US05730901
12 g of potassium t-butoxide was added to a mixture of 35 g of methoxymethyltriphenylphosphonium chloride and 200 ml of THF to prepare an orange ylide solution. A solution of 34 g of 4-(4-n-pentyl-4-phenyl-4-silacyclohexyl)cyclohexanone in 50 ml of THF was added to the ylide solution and agitated at room temperature for 2 hours. Thereafter, the mixture was poured into iced water and extracted with methylene chloride, followed by washing, drying and concentration by a usual manner. n-Hexane was added to the residue, and the resultant crystals of triphenylphosphine oxide were removed by filtration. The filtrate was concentrated, and the resultant residue was hydrolyzed with 100 ml of 20% hydrochloric acid, followed by washing, drying and concentration by a usual manner to obtain 4-(4-n-pentyl-4-phenyl-4-silacyclohexyl)cyclohexane carbaldehyde.

reactant | potassium t-butoxide | 12 g | CC(C)([O-])C.[K+]
reactant | methoxymethyltriphenylphosphonium chloride | 35 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 4-(4-n-pentyl-4-phenyl-4-silacyclohexyl)cyclohexanone | 34 g | C(CCCC)[Si]1(CCC(CC1)C1CCC(CC1)=O)C1=CC=CC=C1 | C22H34OSi
reactant | water | O | H2O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | 4-(4-n-pentyl-4-phenyl-4-silacyclohexyl)cyclohexane carbaldehyde | C(CCCC)[Si]1(CCC(CC1)C1CCC(CC1)C=O)C1=CC=CC=C1 | C23H36OSi
